US04356324
There were dropped into a suspension of 50 grams of LiAlH4 in 750 ml of tetrahydrofuran (THF) cooled to 0° C. within 3 hours 83.1 grams of (S)-phenyl lactic acid dissolved in 250 ml of THF. The reaction mixture was boiled for 2 hours under reflux, after cooling treated portionwise with water and 43 ml of 4 N-NaOH and boiled for 0.5 hour under reflux. The white precipitate was filtered off and carefully washed with hot THF. The solvent was distilled off from the combined filtrates and the crude product fractionally distilled. There were obtained 64.6 grams of (S)-1,2-dihydroxy-3-phenyl-propane of boiling point 101°-102° C. (0.001 mbar).

reactant | LiAlH4 | 50 grams | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (S)-phenyl lactic acid | 83.1 grams | C1(=CC=CC=C1)[C@@](C(=O)O)(O)C | C9H10O3
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
reactant | THF | 250 ml | O1CCCC1 | C4H8O
product | (S)-1,2-dihydroxy-3-phenyl-propane | 64.6 grams | OC[C@H](CC1=CC=CC=C1)O | C9H12O2
